* source 2
V_V1         N00149 0  
+PULSE 0V 5V 0.1m 0.05m 0.15m 0.5m 1m
R_R1         N00149 N00142  1k TC=0,0 
C_C1         0 N00142  0.47u  TC=0,0 
